US04282242
Ethyl 1-(2-pyridylmethyl)-5-(4-chlorobenzoyl)-pyrrole-3-carboxylate hydrochloride (4.05 g.) was combined with 150 ml. of dioxane, 5 ml. of water and 10 g. of selenium dioxide and refluxed for 18 hours. The reaction mixture was filtered, the filtrate diluted with 150 ml. of ether and 150 ml. of water, and equilibrated. The organic phase was separated, back-washed with two 100 ml. portions of water, and concentrated to yield solid ethyl 5-(4-chlorobenzoyl)pyrrole-3-carboxylate (2.7 g., Rf 0.55 on silica gel thin layer chromatography with ethyl acetate-1/hexane-5/5% acetic acid as eluant).

reactant | Ethyl 1-(2-pyridylmethyl)-5-(4-chlorobenzoyl)-pyrrole-3-carboxylate hydrochloride | 4.05 g | Cl.N1=C(C=CC=C1)CN1C=C(C=C1C(C1=CC=C(C=C1)Cl)=O)C(=O)OCC
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | water | O | H2O
product | ethyl 5-(4-chlorobenzoyl)pyrrole-3-carboxylate | 2.7 g, 5% | ClC1=CC=C(C(=O)C2=CC(=CN2)C(=O)OCC)C=C1 | C14H12ClNO3
